US04092304
A solution of 4.4 parts glycylglycine benzyl ester hydrochloride, 9.1 parts N-t-butoxycarbonyl-L-tyrosine 2,3,5-trichlorophenyl ester and 1.8 parts N-methylmorpholine in 150 parts methylene chloride is stirred overnight at room temperature. The solvent is then removed by evaporation under reduced pressure. The crude material is subjected to low-pressure column chromatography on silica gel to afford N-t-butoxycarbonyl-L-tyrosylglycylglycine benzyl ester.

reactant | glycylglycine benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(CNC(CN)=O)=O
reactant | N-t-butoxycarbonyl-L-tyrosine 2,3,5-trichlorophenyl ester | ClC1=C(C=C(C=C1Cl)Cl)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O | C20H20Cl3NO5
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-butoxycarbonyl-L-tyrosylglycylglycine benzyl ester | C(C1=CC=CC=C1)OC(CNC(CNC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)=O)=O)=O | C25H31N3O7
